US05051437
A solution of 4.00 g of 4-[5-(3-methyl-5-isoxazolyl)pentyloxy]benzaldehyde (part a above), 1.22 g of 2-aminoethanethiol and a trace of p-toluenesulfonic acid in 30 ml of toluene was heated at reflux for 2 hours using a Dean-Stark trap. The product was isolated and recrystallizedfrom isopropyl acetate-hexane to give 1.93 g of the above-indicated product, m.p. 82°-84° C.

reactant | 4-[5-(3-methyl-5-isoxazolyl)pentyloxy]benzaldehyde | 4.00 g | CC1=NOC(=C1)CCCCCOC1=CC=C(C=O)C=C1 | C16H19NO3
reactant | 2-aminoethanethiol | 1.22 g | NCCS | C2H7NS
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | isopropyl acetate hexane | C(C)(=O)OC(C)C.CCCCCC | InChI=1S/C6H14.C5H10O2/c1-3-5-6-4-2;1-4(2)7-5(3)6/h3-6H2,1-2H3;4H,1-3H3
